US05859014
substituting 1-[4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 1-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione gave 1-(3-{4-[4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 205°-206° C.; Anal.: Calcd. for C20H24ClF3N4O3.(HCl)2 : C, 43.53; H, 5.10; N, 10.15%; Found: C, 43.77; H, 5.10; N, 10.13%;

reactant | 1-[4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]piperazine | ClC1=CC(=C(C=C1)N1CCNCC1)OCC(F)(F)F | C12H14ClF3N2O
reactant | 1-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(NC(C(=C1)C)=O)=O | C8H11ClN2O2
product | 1-(3-{4-[4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.ClC1=CC(=C(C=C1)N1CCN(CC1)CCCN1C(NC(C(=C1)C)=O)=O)OCC(F)(F)F | InChI=1S/C20H24ClF3N4O3.ClH/c1-14-12-28(19(30)25-18(14)29)6-2-5-26-7-9-27(10-8-26)16-4-3-15(21)11-17(16)31-13-20(22,23)24;/h3-4,11-12H,2,5-10,13H2,1H3,(H,25,29,30);1H
